US07371743B2
(a) methyl 3-chloro-4-(5-chloro-pentanoyl-amino)-benzoate
A solution of 696 μl (0.84 g, 5.39 mmol) 5-chloro-pentanoylchloride in 10 ml THF is slowly added dropwise to 1.00 g (5.39 mmol) methyl 4-amino-3-chloro-benzoate in 20 ml THF with 1 ml TEA with stirring in the ice bath. After stirring for 16 hours at ambient temperature, for 3 hours at 50° C. and for 3 hours at reflux temperature the mixture is poured into water and extracted with ethyl acetate. After the organic phases have been dried over sodium sulphate the mixture is evaporated down i. vac. and the residue remaining is purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate 85:15).

reactant | 5-chloro-pentanoylchloride | 5.39 mmol, 696 μl, 0.84 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | methyl 4-amino-3-chloro-benzoate | 5.39 mmol, 1.00 g | NC1=C(C=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl 3-chloro-4-(5-chloro-pentanoyl-amino)-benzoate | ClC=1C=C(C(=O)OC)C=CC1NC(CCCCCl)=O | C13H15Cl2NO3
